US08084395B2
Chlorocarbonyl-acetic acid methyl ester (129 mg, 0.9 mmole) is added to a solution of 200 mg (0.62 mmole) of 4-[3-(4-Fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-ylamine (prepared following the procedure for example 7) in 3 mL of pyridine at room temperature. After 30 hours at room temperature, Chlorocarbonyl-acetic acid methyl ester (129 mg, 0.9 mmole) is added again to the reaction mixture stirred 12 more hours at room temperature. The reaction mixture is then poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. After concentration the solid residue is purified by chromatography on silica gel (ethyl acetate) to give 40 mg of N-{4-[3-(4-Fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-yl}-malonamic acid methyl ester as white solid.

reactant | Chlorocarbonyl-acetic acid methyl ester | 0.9 mmole, 129 mg | COC(CC(=O)Cl)=O | C4H5ClO3
reactant | 4-[3-(4-Fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-ylamine | 0.62 mmole, 200 mg | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=C(C2)C)C2=CC(=NC=C2)N | C19H15FN4
reactant | Chlorocarbonyl-acetic acid methyl ester | 0.9 mmole, 129 mg | COC(CC(=O)Cl)=O | C4H5ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[3-(4-Fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-yl}-malonamic acid methyl ester | 40 mg | COC(CC(=O)NC1=NC=CC(=C1)C1=C(C2=NC=C(C=C2N1)C)C1=CC=C(C=C1)F)=O | C23H19FN4O3
